US07351825B2
(1S,2R,3R)-1-[5-(4-ethynyl-pyrazole-1-yl)-thiophene-2-sulfonylamino]-2-methyl-3-phenyl-cyclopropanecarboxylic acid (step 5-9)
To a solution of (1S,2R,3R)-2-methyl-3-phenyl-1-[5-(4-trimethylsilanylethynyl-pyrazol-1-yl)-thiophene-2-sulfonylamino]-cyclopropanecarboxylic acid (66 mg, 0.13 mmol) in methanol (1.0 mL) was added potassium carbonate (36 mg, 0.26 mmol) at room temperature. After stirring for 1 hour without any modification, to the mixture was added 5% aqueous potassium hydrogen sulfate solution (3.0 mL). The aqueous layer was extracted three times with ethyl acetate (2.0 mL). The organic layer was washed with water (3.0 mL) and saturated aqueous sodium chloride solution (3.0 mL), and dried over sodium sulfate. After filtration and evaporation of the residue, chloroform (1.0 mL) was added to the obtained residue to allow precipitation of crystals. After slurry-washing and filtration, the residue was dried under reduced pressure to give the title compound (54 mg, yield 98%) as a pale-yellow powder.

reactant | (1S,2R,3R)-2-methyl-3-phenyl-1-[5-(4-trimethylsilanylethynyl-pyrazol-1-yl)-thiophene-2-sulfonylamino]-cyclopropanecarboxylic acid | 0.13 mmol, 66 mg | C[C@H]1[C@]([C@H]1C1=CC=CC=C1)(C(=O)O)NS(=O)(=O)C=1SC(=CC1)N1N=CC(=C1)C#C[Si](C)(C)C | C23H25N3O4S2Si
reactant | potassium carbonate | 0.26 mmol, 36 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydrogen sulfate | 3.0 mL | S(=O)(=O)(O)[O-].[K+]
solvent | methanol | 1.0 mL | CO | CH4O
product | (1S,2R,3R)-1-[5-(4-ethynyl-pyrazole-1-yl)-thiophene-2-sulfonylamino]-2-methyl-3-phenyl-cyclopropanecarboxylic acid | 54 mg, yield 98% | C(#C)C=1C=NN(C1)C1=CC=C(S1)S(=O)(=O)N[C@]1([C@@H]([C@@H]1C1=CC=CC=C1)C)C(=O)O | C20H17N3O4S2
